US07531532B2
N,N-Diethyl-N′-methylpropane-1,3-diamine
To a solution of N,N-diethyl-1,3-propanediamine (10.0 ml) and triethylamine (10.0 ml) in tetrahydrofuran (150 ml) was added dropwise methyl chloroformate (5.15 ml) in an ice bath, followed by stirring at room temperature for 30 min. To the reaction mixture was added a saturated aqueous solution of sodium hydrogencarbonate (10 ml) to partition. The organic layer was dried over anhydrous sodium sulfate, and concentrated under a reduced pressure. The residue was dissolved in ethyl acetate (200 ml) again, dried over potassium carbonate, and concentrated under a reduced pressure to provide a pale yellow oil (8.90 g, ESI-MS (m/z):189). This residue was dissolved in tetrahydrofuran (200 ml), and then lithium aluminium hydride (2.00 g, 0.826 mmol) was gradually added thereto while cooling in an ice bath and stirring, followed by stirring under a nitrogen atmosphere at room temperature for 15 min and then at 65° C. for 1.5 hrs. The reaction mixture was cooled in an ice bath, and then supplied with water (2.0 mL), an 5 N aqueous solution of sodium hydroxide (2.0 mL) and water (10.0 mL), followed by stirring in an ice bath for 1 hr. The insoluble portion was filtered and washed with tetrahydrofuran to give a filtrate, which was concentrated under a reduced pressure to provide a crude product of the titled compound (9.2 g, 72.3%) as a pale yellow oil.

reactant | N,N-diethyl-1,3-propanediamine | 10.0 ml | C(C)N(CCCN)CC | C7H18N2
reactant | methyl chloroformate | 5.15 ml | ClC(=O)OC | C2H3ClO2
reactant | sodium hydrogencarbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | lithium aluminium hydride | 0.826 mmol, 2.00 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 2.0 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 10.0 mL | O | H2O
solvent | water | 2.0 mL | O | H2O
solvent | triethylamine | 10.0 ml | C(C)N(CC)CC | C6H15N
product | N,N-Diethyl-N′-methylpropane-1,3-diamine | 9.2 g, 72.3% | C(C)N(CCCNC)CC | C8H20N2
